US07459562B2
A mixture of N-(2,4,6-trimethoxybenzyl)-6-chloropyrimidin-4-amine (2.2 g, 7.11 mmol), 2-fluoro-4-nitrophenol (1.1 g, 7.0 mmol), and 2-methoxyethyl ether (50 mL) was heated at 160° C. for 60 h. The reaction mixture was cooled to RT and poured into H2O (200 mL). The solid was collected, washed with 2 M aqueous Na2CO3 and H2O, and then vacuum dried on a Büchner funnel. The crude product was treated with TFA (20 mL) in dioxane (40 mL) and stirred at RT for 4 h. The reaction mixture was concentrated, the residue partitioned between EtOAc and saturated NaHCO3 solution. The EtOAc phase was separated, dried (MgSO4), concentrated and the crude product purified by flash chromatography using 1-2% MeOH in CH2Cl2 as the eluent to give 6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine (440 mg, 31%). 1H NMR (DMSO-d6) δ 8.31 (dd, 1H, J=10.4, 2.5 Hz), 8.14 (dd, 1H, J=9.8, 2.0 Hz), 8.04 (s, 1H), 7.61 (dd, 1H, J=8.3, 8.3 Hz), 7.07 (s, 2H), 6.02 (s, 1H); MS(ESI+) m/z 251.15 (M+H)+.

reactant | N-(2,4,6-trimethoxybenzyl)-6-chloropyrimidin-4-amine | 7.11 mmol, 2.2 g | COC1=C(CNC2=NC=NC(=C2)Cl)C(=CC(=C1)OC)OC | C14H16ClN3O3
reactant | 2-fluoro-4-nitrophenol | 7.0 mmol, 1.1 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | 2-methoxyethyl ether | 50 mL | COCCOCCOC | C6H14O3
solvent | H2O | 200 mL | O | H2O
product | 6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine | 440 mg, 31% | FC1=C(OC2=CC(=NC=N2)N)C=CC(=C1)[N+](=O)[O-] | C10H7FN4O3
